US05079260
A solution of 1-methylfluorene (3.8 g, 21.1 mmol) in 100 mL of THF at -78° C. was charged with n-butyl lithium (3.5M solution in hexane, 6.29 ml, 22.0 mmol). The reaction mixture was stirred for 15 min, then CO2 gaseous (5 g, 113.6 mmol) was introduced via cannula over a period of 15 min. The reaction mixture was warmed up to room temperature and stirring was continued until no color was apparent (approximately 2 hr). The slurry was diluted with water (100 mL) and ethyl acetate (50 mL). The layers were separated, the water layer was washed with ethyl acetate (3×50 mL), then acidified with conc. HCl. The precipitate was collected, washed with water and dried to give 1-methyl-9-fluorenecarboxylic acid (4.02 g, 84.8%).

reactant | 1-methylfluorene | 21.1 mmol, 3.8 g | CC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12
reactant | n-butyl lithium | 22.0 mmol, 3.5M, 6.29 ml | C(CCC)[Li]
reactant | CO2 | 113.6 mmol, 5 g | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-methyl-9-fluorenecarboxylic acid | 4.02 g, 84.8% | CC1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C15H12O2
